2100-10-10 08:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Admitted overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2100-10-9**] 11:12 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2100-10-10**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-10**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 66 (64 - 80) bpm
   BP: 98/49(61) {98/46(61) - 113/63(74)} mmHg
   RR: 21 (14 - 36) insp/min
   SpO2: 92%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 68 Inch
                  Total In:
                                                                    100 mL
                                                                    400 mL
   PO:
                  400 mL
   TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    100 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: 7.43/46/26/26/3
   PaO2 / FiO2: 37
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Dry Crackles at the bases : ,
   Bronchial: , scant  Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   211 K/uL
   110 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.8 mEq/L
   24 mg/dL
   96 mEq/L
   137 mEq/L
   32
   4.9 K/uL
        [image002.jpg]
                             [**2100-10-9**]  11:27 PM
                             [**2100-10-9**]  11:33 PM
   WBC
   4.9
   Hct
   31.3
   32
   Plt
   211
   Cr
   1.1
   TCO2
   32
   Glucose
   104
   110
   Other labs: PT / PTT / INR:13.6/27.1/1.2, Lactic Acid:1.2 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   ECG: old LBBB
   PE prot CT [**10-9**]:
                      Preliminary Report !! WET READ !!
   interstial lung disease, as before, but now with increased ground glass
   and
   areas of consolidations, esp in LUL, RUL, RML and bilat LL's,
   concerning for
   pneumonia. superimposed edema not excluded. no pleural effusion. no PE.
   Assessment and Plan
   Hypoxemic resp failure:   multifactorial including underlying non small
   cell lung CA, unclear ILD (no biopsy) thought by Dr. [**Last Name (STitle) 206**] to be c/w
   NSIP. His current CT shows these ILD like changes and superimposed GGO
   which could represent superimposed infection, volume overload and acute
   flare of his underlying unclassified ILD.   His markedly impaired DLCO
   out of proportion to his other [**Location (un) 2600**] and lung volumes suggest ILD and
   /or pulm htn from the above mechanisms. It seems reasonable given that
   he is critically ill to cover broadly with Abx: Vanco, Cefepime and
   Azithromycin. DFA for influenza.  I would continue high dose steroids
   (250 mg Solumedrol q 6h) and attempt diuresis with lasix.
   Pneumocystis jiroveci is also on the differential in this patient given
   recent chemotherapy.  Induced sputum is probably not possible given his
   tenuous respiratory status (nor is bronch, however if he gets intubated
   we would proceed with bronch). Notably no PE on CT scan.    Will
   discuss overall poor prognosis with patient re: code status.
   - Abx, GM and 1,3 glucan. DFA for influenza
   - Steroids
   - Diruesis
   - TTE with agitated, check BNP
   - ABG
   - NPO.
   ICU Care
   Nutrition:
   NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2100-10-9**] 11:22 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2100-10-11 10:24:00 Physician Attending Progress Note
Chief Complaint: Progressive shortness of breath
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Stable respiratory status overnight. Remains on 100% HFM with sats in
   the mid 90s, P02 in the 80s..
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2100-10-9**] 11:12 PM
   Cefipime - [**2100-10-11**] 01:55 AM
   Vancomycin - [**2100-10-11**] 07:57 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2100-10-10**] 04:23 PM
   Furosemide (Lasix) - [**2100-10-10**] 09:29 PM
   Heparin Sodium (Prophylaxis) - [**2100-10-11**] 08:13 AM
   Other medications:
   neurontin, lidocaine patch, azithromycin, cefepime, solumedrol 250mg iv
   q6, vancomycin 1 q12, albuterol, atrovent nebs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-11**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 62 (56 - 72) bpm
   BP: 113/54(68) {78/44(57) - 125/89(94)} mmHg
   RR: 23 (14 - 35) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 76.6 kg (admission): 76 kg
   Height: 68 Inch
             Total In:
                                                                  1,150 mL
                                                                    310 mL
   PO:
                                                                    700 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    450 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    255 mL
   Urine:
                                                                  1,140 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     10 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.46/39/86.[**Numeric Identifier 143**]/26/3
   PaO2 / FiO2: 87
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   R>L)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   10.4 g/dL
   215 K/uL
   160 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.0 mEq/L
   32 mg/dL
   100 mEq/L
   137 mEq/L
   31.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2100-10-9**]  11:27 PM
                             [**2100-10-9**]  11:33 PM
                             [**2100-10-10**]  11:19 AM
                             [**2100-10-10**]  05:40 PM
                             [**2100-10-10**]  06:02 PM
                             [**2100-10-11**]  04:55 AM
   WBC
   4.9
   7.5
   Hct
   31.3
   32
   33
   31.4
   Plt
   211
   215
   Cr
   1.1
   1.2
   1.2
   TCO2
   32
   28
   29
   Glucose
   104
   110
   208
   182
   160
   Other labs: PT / PTT / INR:13.6/27.1/1.2, Lactic Acid:1.4 mmol/L,
   Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR, and Chest Ct reviewed
   Microbiology: negative to date
   flu swab pending
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):
   continue pain managment with morhine, gabapentin.
 Nutrition: will assess till after the induced sputum. Start RISS
   while on high dose steroids.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):
   Will add on empiric PCP therapy with bactrim iv, continue pulse dose
   steroids, continue broad spectrum antibiotic therapy. Will assess for
   possibility of induced sputum by RT. No evidence for pulmonary edema,
   as Creatinine starting to rise, wil aim to keep even. F/u glucan,
   galactomannan, check LDH.
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2100-10-10**] 12:14 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Mr. [**Known lastname **] with the ICU team; Dr. [**First Name (STitle) 10164**]
s note from
   today reflects my input.  I would add/emphasize that this 72-year-old
   man with a complex prior pulmonary history (NSCLC, presumptive NSIP)
   now presents with hypoxemic respiratory distress.  On exam, he has
   labored breathing; with any activity becomes very tachypneic and desats
   to mid-80s.  Crackles diffusely.  Flat neck veins. CT read as
Background interstitial lung disease compatible with NSIP and
   emphysema, with continued increase in areas of ground-glass attenuation
   and peribronchovascular airspace opacification and consolidation, which
   is most notable in the left upper lobe as well as the lower lobes.
   Findings again concerning for superimposed infection or inflammation
   (such as drug reaction), or acute worsening of the patient's underlying
   NSIP. Pulmonary edema is considered less likely, and there is no
   pleural effusion.
  On my review, there are definite new areas of GGO
   and consolidations.
   Assessment and Plan
   51-year-old man with NSCLC and probable NSIP now presents with severe
   hypoxemic respiratory distress.  Differential diagnosis is broad, and
   includes infection [CAP/HCAP, influenza (less likely), Pneumocystis,
   etc.].  Hypersensitivity or COP from radiation is possible.
   Exacerbation of ILD is possible.  Doubt heart failure
 seems dry and
   BNP is relatively low.
   He has received antibiotics and high-dose steroids, but remains quite
   tenuous and may require intubation today.  We will continue present
   therapy and add treatment for pneumocystis.  Will see if he can
   tolerate induced sputum, but he may be unable.  Given his clinical
   status, bronchoscopy is contraindicated without intubation.  We will
   also discuss with his outpatient physicians, as well.
   He is critically ill: 40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2100-10-11**] 11:21 ------

2100-10-12 11:09:00 Physician Attending Progress Note
Chief Complaint:
   Continues to feel short of breath, but somewhat improved since
   admission
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2100-10-9**] 11:12 PM
   Cefipime - [**2100-10-12**] 02:00 AM
   Bactrim (SMX/TMP) - [**2100-10-12**] 04:01 AM
   Vancomycin - [**2100-10-12**] 08:09 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-10-12**] 08:00 AM
   Other medications:
   thiamine
   colace
   omeprazole
   neurontin
   lido patch
   azithro
   albuterol
   atrovent
   bactrim 400 q 8
   riss
   methylpred 250 q 6
   prn tylenol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2100-10-12**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 56 (49 - 62) bpm
   BP: 102/56(67) {91/44(61) - 121/91(96)} mmHg
   RR: 15 (13 - 27) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 76.6 kg (admission): 76 kg
   Height: 68 Inch
             Total In:
                                                                  1,940 mL
                                                                    959 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,820 mL
                                                                    959 mL
   Blood products:
   Total out:
                                                                    675 mL
                                                                  1,135 mL
   Urine:
                                                                    675 mL
                                                                  1,135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,265 mL
                                                                   -176 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases, fine)
   Abdominal: Soft
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   235 K/uL
   140 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.7 mEq/L
   32 mg/dL
   104 mEq/L
   139 mEq/L
   31.0 %
   10.2 K/uL
        [image002.jpg]
                             [**2100-10-9**]  11:27 PM
                             [**2100-10-9**]  11:33 PM
                             [**2100-10-10**]  11:19 AM
                             [**2100-10-10**]  05:40 PM
                             [**2100-10-10**]  06:02 PM
                             [**2100-10-11**]  04:55 AM
                             [**2100-10-12**]  05:12 AM
   WBC
   4.9
   7.5
   10.2
   Hct
   31.3
   32
   33
   31.4
   31.0
   Plt
   [**Telephone/Fax (3) 10370**]
   Cr
   1.1
   1.2
   1.2
   1.1
   TCO2
   32
   28
   29
   Glucose
   104
   110
   208
   182
   160
   140
   Other labs: PT / PTT / INR:14.2/46.6/1.2, Lactic Acid:1.4 mmol/L,
   LDH:290 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Chest CT from [**10-10**] with diffuse GGO, cystic changes prominent in upper
   lobes
   Assessment and Plan
   72 yo M NSIP, sclca s/p chemo/xrt pw increased resp failure, ggo on
   chest CT
   1. Resp failure: radiation v infection v progression NSIP
    - cont iv solumedrol 1g --> 1 mg/kg starting tomorrow
    - cont broad spectrum abx (vanc.cef/azithro) for ? CAP, if culture neg
   titrate to levo for ten day course
    - cont bactrim for presumed PCP x 21 days
   2. sclca: stable for now
   3. COPD: nebs as needed, steroids
   4. goals of care: ongoing discussion with patient and family, remains
   full code
   ICU Care
   Nutrition:
   Comments: NPO awaiting slp
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2100-10-10**] 12:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevated, aspiration precautions, speech language pathology
   follwoing
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Mr. [**Known lastname **] with the ICU team; Dr. [**Last Name (STitle) 192**]
s note from
   today reflects my input.  I would add/emphasize that this 72-year-old
   man with a complex prior pulmonary history (NSCLC, presumptive NSIP)
   now presents with hypoxemic respiratory distress.  On exam, his is
   somewhat more comfortable than yesterday, though breathing is still
   quite labored; FiO2 has decreased to 50%.  Crackles at bases, somewhat
   better than before.  Flat neck veins. Labs, micro, meds, and imaging
   reviewed.  Viral negative; PCP [**Name Initial (PRE) 10375**]; galactomannan and beta-glucan
   pending.
   Assessment and Plan
   51-year-old man with NSCLC and probable NSIP now presents with severe
   hypoxemic respiratory distress.  Differential diagnosis is broad, and
   includes infection [CAP/HCAP, influenza (less likely), Pneumocystis,
   etc.].  Hypersensitivity or COP from radiation is possible.
   Exacerbation of ILD is possible.  Doubt heart failure
 seems dry and
   BNP was relatively low.  Overall, seems improved from yesterday though
   still quite tenuous.  Today, we will continue present therapy
   (steroids, antibiotics for CAP/HCAP, and PCP [**Last Name (NamePattern4) **]).  Will re-attempt
   induced sputum; since he is less hypoxemic it may be more successful.
   If we are unable to get samples (which seems likely), we will decrease
   steroid dose tomorrow, complete treatment for bacterial pneumonia, and
   complete PCP [**Last Name (NamePattern4) **].
   Other issues as per Dr. [**Last Name (STitle) 192**]
s note.
   He is critically ill: 45 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2100-10-12**] 14:25 ------

2100-10-13 12:57:00 Physician Attending Progress Note
Chief Complaint: feels tired
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2100-10-12**] 12:00 PM
   Cefipime - [**2100-10-13**] 02:00 AM
   Bactrim (SMX/TMP) - [**2100-10-13**] 04:04 AM
   Vancomycin - [**2100-10-13**] 08:06 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-10-13**] 08:06 AM
   Other medications:
   thiamine
   prilosec
   neurontin 300 [**Hospital1 **]
   lidocaine patch
   azithro 250 q 24
   albuterol/atrovent
   bactrim 400 q 8H
   riss
   methylpred 250 q 6
   colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-13**] 12:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 64 (54 - 73) bpm
   BP: 127/82(93) {93/38(55) - 127/84(93)} mmHg
   RR: 21 (16 - 38) insp/min
   SpO2: 93%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 76.6 kg (admission): 76 kg
   Height: 68 Inch
             Total In:
                                                                  2,340 mL
                                                                    871 mL
   PO:
                                                                    100 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  2,240 mL
                                                                    841 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                  1,075 mL
   Urine:
                                                                  2,010 mL
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    330 mL
                                                                   -205 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   FiO2: 60% HFM
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Cool
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   230 K/uL
   245 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.9 mEq/L
   28 mg/dL
   102 mEq/L
   134 mEq/L
   28.3 %
   8.1 K/uL
        [image002.jpg]
                             [**2100-10-9**]  11:27 PM
                             [**2100-10-9**]  11:33 PM
                             [**2100-10-10**]  11:19 AM
                             [**2100-10-10**]  05:40 PM
                             [**2100-10-10**]  06:02 PM
                             [**2100-10-11**]  04:55 AM
                             [**2100-10-12**]  05:12 AM
                             [**2100-10-13**]  05:01 AM
   WBC
   4.9
   7.5
   10.2
   8.1
   Hct
   31.3
   32
   33
   31.4
   31.0
   28.3
   Plt
   [**Telephone/Fax (3) 10395**]30
   Cr
   1.1
   1.2
   1.2
   1.1
   1.3
   TCO2
   32
   28
   29
   Glucose
   104
   110
   208
   182
   160
   140
   245
   Other labs: PT / PTT / INR:15.0/36.9/1.3, Lactic Acid:1.4 mmol/L,
   LDH:290 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   72 yo M history of NSIP, nsclca s/p recent chemo/xrt, here w hypoxemic
   respiratory failure
   1. Respiratory failure: infectious (PCP) v NSIP v radiation
   hypersensitivity
    - will give 14 d HAP pna abx
    - 21 d bactrim for PCP
    [**Name Initial (PRE) **] cont pred (80Mg) for hypersensitivity pneumonitis/NSIP
    - family meeting w patient and hcp to discuss goc
    - bronchoscopy/bal not indicated at this time
   2. Voluem status: euvolemic to dry, continue ivf w abx
   3. Hct drop: guaiac stool, repeat afternoon hct
   4. renal insufficiency: creatinine bumped slightly today - likely [**2-15**]
   bactrim effect, will cont monitor for med effect, pre-renal, addl
   sources of renal insufficiency
   - cont monitor, urine lytes, urine output
   ICU Care
   Nutrition:
   Comments: advancing diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2100-10-12**] 06:34 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Mr. [**Known lastname **] with the ICU team; Dr. [**Last Name (STitle) 192**]
s note from
   today reflects my input.  I would add/emphasize that this 72-year-old
   man with a complex prior pulmonary history (NSCLC, presumptive NSIP)
   now presents with hypoxemic respiratory distress.  On exam, his is
   somewhat more comfortable than earlier in the week, though breathing is
   still quite labored. Crackles at bases.  Flat neck veins.  Labs, micro,
   meds, and imaging reviewed.  He is still unable to produce sputum, even
   with induction.
   Assessment and Plan
   51-year-old man with NSCLC and probable NSIP now presents with severe
   hypoxemic respiratory distress.  Differential diagnosis is broad, and
   includes infection [CAP/HCAP, influenza (less likely), Pneumocystis,
   etc.].  Hypersensitivity or COP from radiation is possible.
   Exacerbation of ILD is possible.  Doubt heart failure
 continues to
   seem dry and BNP was relatively low.  Overall, seems to have improved
   from Sunday/Monday but not so much from yesterday.  Still quite
   tenuous.  Today, we will continue present therapy (steroids,
   antibiotics for CAP/HCAP, and PCP [**Last Name (NamePattern4) **]).  We have decreased steroids from
   pulse.  I do not think benefits of BAL outweigh risks at present time,
   given ongoing hypoxemia.  For anemia, will recheck Hct.  For
   thrombocytopenia, he is on the low side of intermediate risk for HIT.
   We will recheck plt count.  If lower, will switch prophylaxis to
   non-heparinoid and check HIT Ab.  Given competing possibilities (e.g.
   ABX), I think the risks of systemic anticoagulation outweigh benefits
   unless HIT Ab (PF4) is positive.  Creatinine elevation without BUN
   elevation suggests Bactrim effect on creatinine secretion, rather than
   ARF, but will follow.  Other issues as per Dr. [**Last Name (STitle) 192**]
s note.
   Detailed discussion with Mr. [**Known lastname **] and his HCP about course of care, and
   that if he worsens to the point of needing intubation then he probably
   has incurable disease (e.g. ILD exacerbation).  I doubt that this acute
   event represent malignancy.  Discussed possibility of needing life
   support/ventilation in this circumstance.  He is not easily able to
   make this decision.  Discussed with HCP as well, since Mr. [**Known lastname **] notes
   that his thinking feels clouded.  We will plan for a trial of
   intubation/ventilation if needed, with reassessment in a few days
   afterwards.  All questions answered.
   Critically ill:  75 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2100-10-13**] 21:36 ------

2100-10-14 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -patient still full code after meeting with HCP, they will have ongoing
   discussion about advanced directics as to how long to keep the vent on
   if needed
   -vanc trough high, hold am dose and start 750mg [**Hospital1 7**], with level sat am
   -no urine eos, Fena 1.1%, Feurea 59%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2100-10-12**] 12:00 PM
   Vancomycin - [**2100-10-13**] 08:00 PM
   Cefipime - [**2100-10-14**] 02:00 AM
   Bactrim (SMX/TMP) - [**2100-10-14**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-10-13**] 08:06 AM
   Other medications:
   Vanc Day 5
   Cefepime Day 5
   Azithromycin Day 5
   Bactrim Day 4
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-14**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 60 (57 - 77) bpm
   BP: 119/57(72) {81/38(55) - 134/84(131)} mmHg
   RR: 22 (16 - 38) insp/min
   SpO2: 92%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 76.6 kg (admission): 76 kg
   Height: 68 Inch
             Total In:
                                                                  2,416 mL
                                                                    624 mL
   PO:
                                                                    210 mL
             TF:
   IVF:
                                                                  2,206 mL
                                                                    624 mL
   Blood products:
   Total out:
                                                                  1,785 mL
                                                                    860 mL
   Urine:
                                                                  1,785 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    631 mL
                                                                   -236 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   223 K/uL
   9.4 g/dL
   245 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.9 mEq/L
   28 mg/dL
   102 mEq/L
   134 mEq/L
   28.4 %
   7.0 K/uL
        [image002.jpg]
                             [**2100-10-9**]  11:27 PM
                             [**2100-10-9**]  11:33 PM
                             [**2100-10-10**]  11:19 AM
                             [**2100-10-10**]  05:40 PM
                             [**2100-10-10**]  06:02 PM
                             [**2100-10-11**]  04:55 AM
                             [**2100-10-12**]  05:12 AM
                             [**2100-10-13**]  05:01 AM
                             [**2100-10-13**]  04:45 PM
                             [**2100-10-13**]  08:46 PM
   WBC
   4.9
   7.5
   10.2
   8.1
   5.8
   7.0
   Hct
   31.3
   32
   33
   31.4
   31.0
   28.3
   28.8
   28.4
   Plt
   [**Telephone/Fax (3) 10395**]30
   139
   223
   Cr
   1.1
   1.2
   1.2
   1.1
   1.3
   TCO2
   32
   28
   29
   Glucose
   104
   110
   208
   182
   160
   140
   245
   Other labs: PT / PTT / INR:15.0/36.9/1.3, Lactic Acid:1.4 mmol/L,
   LDH:290 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR:
   Microbiology: [**2100-10-9**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [**2100-10-9**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   Assessment and Plan
   72 y.o. M with nonspecific interstitial pneumonitis, small cell lung
   cancer diagnosed in [**5-/2100**], s/p chemotherapy and radiation, presents
   with progressive shortness of breath.
   # Respiratory distress: Presumed exacerbation of NSIP vs radiation
   changes; will aggressively treat for any conditions that could be
   treatable, including bacterial pneumonia, PCP, [**Name10 (NameIs) **] steroid responsive
   pneumonitis. Episode of aspiration witnessed this am.
   - 10 day course of antibiotics. Day 5 of azithro, cont vanc and
   cefepime for 5 more days. - For now, since he has relatively plateaued
   and we cannot exclude resistent organisms based on culture data, will
   continue broaod spectrum
   - continue pcp coverage for full 21 day course
   - switching  steroids to 60mg IV solumedrol daily as concern for
   aspiration
   -patient strongly wants to eat although high risk for aspiration, will
   discuss goals but for now NPO
   -appreciate S+S consult
   # Small Cell Lung Cancer: Followed by Dr. [**Last Name (STitle) 4197**]; recently finished
   xrt.
   -palliative care consult
   # ARF: thought [**2-15**] Bactrim effort, elytes ? ATN process
   -trend Cr
   # Tooth pain: new finding, no visible abscess
   -viscous lidocaine
   # COPD: Was recently on 2 L NC at home due to increased dyspnea
   - albuterol and ipratropium nebs
   # Anemia: Hct baseline 31-33, pt now at baseline
   - active T&S
   - guaiac  all stools
   - iron studies, retic count
   # Neuropathy: given NPO status cannot take Gabapentin 300 mg three
   times a day.
   -IV morphine for pain
   # FEN: no IVFs / replete lytes prn / NPO except meds
   # PPX: home PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: FULL (confirmed with pt)- will revisit goals today with
   palliative care
   # CONTACT: [**First Name8 (NamePattern2) 2057**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 10324**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2100-10-12**] 06:34 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2100-10-15 07:28:00 Physician Resident Progress Note
24 Hour Events:
   - pt aspirated while eating scrambled eggs and desat'ed, recovered with
   [**Name (NI) 2720**]
   - pt NPO except meds, although he would like to eat
   - updated HCP
   - palliative care consult initiated
   - HCP/pt/palliative care meeting scheduled for [**10-15**] at 1:30 pm
   - nausea overnight with associated desaturation, placed on [**Month/Day (2) 2720**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2100-10-14**] 02:00 AM
   Bactrim (SMX/TMP) - [**2100-10-14**] 12:22 PM
   Azithromycin - [**2100-10-14**] 07:00 PM
   Vancomycin - [**2100-10-14**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-10-14**] 12:22 PM
   Morphine Sulfate - [**2100-10-14**] 11:59 PM
   Lorazepam (Ativan) - [**2100-10-15**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-15**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 64 (58 - 85) bpm
   BP: 123/59(76) {113/58(73) - 155/91(108)} mmHg
   RR: 19 (17 - 33) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 76.6 kg (admission): 76 kg
   Height: 68 Inch
             Total In:
                                                                  2,250 mL
                                                                    575 mL
   PO:
             TF:
   IVF:
                                                                  2,250 mL
                                                                    575 mL
   Blood products:
   Total out:
                                                                  3,160 mL
                                                                    790 mL
   Urine:
                                                                  3,160 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -910 mL
                                                                   -215 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 97%
   ABG: 7.52/29/49/25/1
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   270 K/uL
   11.5 g/dL
   87 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.0 mEq/L
   22 mg/dL
   97 mEq/L
   131 mEq/L
   33.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2100-10-10**]  05:40 PM
                             [**2100-10-10**]  06:02 PM
                             [**2100-10-11**]  04:55 AM
                             [**2100-10-12**]  05:12 AM
                             [**2100-10-13**]  05:01 AM
                             [**2100-10-13**]  04:45 PM
                             [**2100-10-13**]  08:46 PM
                             [**2100-10-14**]  05:48 AM
                             [**2100-10-14**]  08:33 AM
                             [**2100-10-15**]  04:18 AM
   WBC
   7.5
   10.2
   8.1
   5.8
   7.0
   8.0
   8.5
   Hct
   31.4
   31.0
   28.3
   28.8
   28.4
   31.3
   33.8
   Plt
   [**Telephone/Fax (3) 10431**]39
   223
   222
   270
   Cr
   1.2
   1.2
   1.1
   1.3
   1.2
   1.2
   TCO2
   29
   24
   Glucose
   182
   160
   140
   245
   221
   87
   Other labs: PT / PTT / INR:13.8/24.3/1.2, ALT / AST:22/19, Alk Phos / T
   Bili:62/0.3, Lactic Acid:3.5 mmol/L, Albumin:3.0 g/dL, LDH:346 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   9.26 BCx pending
   PORTABLE CXR [**2100-10-14**]
   PORTABLE CHEST RADIOGRAPH OF [**2100-10-14**]
   COMPARISON: Radiograph of earlier the same date.
   INDICATION: Acute aspiration.
   FINDINGS: The recently developed acute area of opacification in the
   left
   retrocardiac region has improved, and may be due to a resolving area of
   acute
   aspiration. Other widespread pulmonary opacities are unchanged allowing
   for
   slight differences in lung volumes. Note is made of a right PICC with
   tip
   terminating at the junction of the right axillary and subclavian veins.
   Assessment and Plan:
   72 y.o. M with nonspecific interstitial pneumonitis, small cell lung
   cancer diagnosed in [**5-/2100**], s/p chemotherapy and radiation, presents
   with progressive shortness of breath.
   # Respiratory distress: Presumed exacerbation of NSIP vs radiation
   changes; will aggressively treat for any conditions that could be
   treatable, including bacterial pneumonia, PCP, [**Name10 (NameIs) **] steroid responsive
   pneumonitis. Episode of aspiration witnessed this am.
   - 10 day course of antibiotics. cont vanc and cefepime [**6-23**]. For now,
   since he has relatively plateaued and we cannot exclude resistent
   organisms based on culture data, will continue broaod spectrum
   - d/c azithromycin today
   - continue pcp coverage for full 21 day course
   - continue 60mg IV solumedrol daily as concern for aspiration
   - patient strongly wants to eat although high risk for aspiration, will
   discuss goals but for now NPO
   - appreciate S+S consult
   # Hyponatremia: appears clinically dry today
   - bactrim with NS today (was in D5W)
   # Small Cell Lung Cancer: Followed by Dr. [**Last Name (STitle) 4197**]; recently finished
   xrt.
   -palliative care consult
   # ARF: thought [**2-15**] Bactrim effort and prerenal
   - trend Cr
   - 1 L NS with Bactrim
   # Tooth pain: new finding, no visible abscess, chronic per pt
   - viscous lidocaine and morphine IV prn
   # COPD: Was recently on 2 L NC at home due to increased dyspnea
   - albuterol and ipratropium nebs RTC
   - O2 sats 88-93%
   # Anemia: Hct baseline 31-33, pt now at baseline
   - active T&S
   - guaiac  all stools
   # Neuropathy: given NPO status cannot take Gabapentin 300 mg three
   times a day.
   - IV morphine for pain
   ICU Care
   Nutrition: NPO except meds
   Glycemic Control:
   Lines:
   20 Gauge - [**2100-10-12**] 06:34 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: 1:30 meeting today with ICU/Palliative/HCP
   and patient; [**First Name8 (NamePattern2) 2057**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 10324**]
   Code status: Full code
   Disposition: ICU

2100-10-16 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/c azithromycin after 5 days
   - care meeting occurred and pt is DNR/DNI with focus on comfort
   - palliative care recs: morphine 1-3 mg IV q3 hours, pleasure feeds
   - bactrim mixed in NS to help with hyponatremia instead of D5W
   - miralax for constipation
   - contact[**Name (NI) **] oncologist regarding pt's DNR/DNI status
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2100-10-14**] 07:00 PM
   Vancomycin - [**2100-10-15**] 08:00 PM
   Cefipime - [**2100-10-16**] 02:27 AM
   Bactrim (SMX/TMP) - [**2100-10-16**] 04:58 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-10-15**] 08:43 AM
   Heparin Sodium (Prophylaxis) - [**2100-10-15**] 04:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-16**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 68 (64 - 81) bpm
   BP: 105/42(59) {94/36(43) - 128/93(102)} mmHg
   RR: 17 (15 - 32) insp/min
   SpO2: 88%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 76.6 kg (admission): 76 kg
   Height: 68 Inch
             Total In:
                                                                  2,310 mL
                                                                    620 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  2,250 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                  3,050 mL
                                                                    630 mL
   Urine:
                                                                  3,050 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -740 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 88%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   270 K/uL
   11.5 g/dL
   87 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.0 mEq/L
   22 mg/dL
   97 mEq/L
   131 mEq/L
   33.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2100-10-10**]  05:40 PM
                             [**2100-10-10**]  06:02 PM
                             [**2100-10-11**]  04:55 AM
                             [**2100-10-12**]  05:12 AM
                             [**2100-10-13**]  05:01 AM
                             [**2100-10-13**]  04:45 PM
                             [**2100-10-13**]  08:46 PM
                             [**2100-10-14**]  05:48 AM
                             [**2100-10-14**]  08:33 AM
                             [**2100-10-15**]  04:18 AM
   WBC
   7.5
   10.2
   8.1
   5.8
   7.0
   8.0
   8.5
   Hct
   31.4
   31.0
   28.3
   28.8
   28.4
   31.3
   33.8
   Plt
   [**Telephone/Fax (3) 10431**]39
   223
   222
   270
   Cr
   1.2
   1.2
   1.1
   1.3
   1.2
   1.2
   TCO2
   29
   24
   Glucose
   182
   160
   140
   245
   221
   87
   Other labs: PT / PTT / INR:13.8/24.3/1.2, ALT / AST:22/19, Alk Phos / T
   Bili:62/0.3, Lactic Acid:3.5 mmol/L, Albumin:3.0 g/dL, LDH:346 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   [**10-14**] CXR:
   FINDINGS: The recently developed acute area of opacification in the
   left
   retrocardiac region has improved, and may be due to a resolving area of
   acute
   aspiration. Other widespread pulmonary opacities are unchanged allowing
   for
   slight differences in lung volumes. Note is made of a right PICC with
   tip
   terminating at the junction of the right axillary and subclavian veins.
   NO NEW MICRO DATA
   Assessment and Plan
   72 y.o. M with nonspecific interstitial pneumonitis, small cell lung
   cancer diagnosed in [**5-/2100**], s/p chemotherapy and radiation, presents
   with progressive shortness of breath.
   # Respiratory distress: Presumed exacerbation of NSIP vs radiation
   changes; will aggressively treat for any conditions that could be
   treatable, including bacterial pneumonia, PCP, [**Name10 (NameIs) **] steroid responsive
   pneumonitis. Episode of aspiration witnessed this am.
   - 10 day course of antibiotics. cont vanc and cefepime [**6-23**]. For now,
   since he has relatively plateaued and we cannot exclude resistent
   organisms based on culture data, will continue broaod spectrum
   - d/c azithromycin today
   - continue pcp coverage for full 21 day course
   - continue 60mg IV solumedrol daily as concern for aspiration
   - patient strongly wants to eat although high risk for aspiration, will
   discuss goals but for now NPO
   - appreciate S+S consult
   # Hyponatremia: appears clinically dry today
   - bactrim with NS today (was in D5W)
   # Small Cell Lung Cancer: Followed by Dr. [**Last Name (STitle) 4197**]; recently finished
   xrt.
   -palliative care consult
   # ARF: thought [**2-15**] Bactrim effort and prerenal
   - trend Cr
   - 1 L NS with Bactrim
   # Tooth pain: new finding, no visible abscess, chronic per pt
   - viscous lidocaine and morphine IV prn
   # COPD: Was recently on 2 L NC at home due to increased dyspnea
   - albuterol and ipratropium nebs RTC
   - O2 sats 88-93%
   # Anemia: Hct baseline 31-33, pt now at baseline
   - active T&S
   - guaiac  all stools
   # Neuropathy: given NPO status cannot take Gabapentin 300 mg three
   times a day.
   - IV morphine for pain
   ICU Care
   Nutrition: Pleasure feeds
   Glycemic Control:
   Lines:
   22 Gauge - [**2100-10-14**] 06:42 PM
   20 Gauge - [**2100-10-15**] 05:59 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU, will need to work on Long Term Care